US08957074B2
To a solution of 3-benzyl-3-azabicyclo[3.2.1]octan-8-one (107 mg, 0.50 mmol) in DCM (2 ml) was added dimethylamine (2 ml, 1M in THF) and the resulting reaction mixture was stirred at room temperature for 1H. Na(AcO)3BH (316 mg, 1.49 mmol) was added and the reaction mixture was stirred at room temperature overnight. When TLC shows completion reaction mixture was diluted with DCM and washed with water and brine. Combined aqueous layers were backextracted with DCM. Combined organic layers were dried over Na2SO4, filtered, concentrated and purified by column chromatography which gave 3-benzyl-N,N-dimethyl-3-azabicyclo[3.2.1]octan-8-amine (80 mg) in 67% yield. 1H NMR (400 MHz, MeOD) δ ppm 7.47-7.23 (m, 5H) 3.86 (s, 2H) 2.88 (d, J=11.62 Hz, 2H) 2.72 (dd, J=12.38, 3.28 Hz, 2H) 2.52 (s, 7H) 2.35 (br. s., 2H) 1.90-1.73 (m, 4H)

reactant | 3-benzyl-3-azabicyclo[3.2.1]octan-8-one | 0.50 mmol, 107 mg | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | dimethylamine | 1M, 2 ml | CNC | C2H7N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-benzyl-N,N-dimethyl-3-azabicyclo[3.2.1]octan-8-amine | 80 mg, 67% yield | C(C1=CC=CC=C1)N1CC2CCC(C1)C2N(C)C | C16H24N2
